US05834468
2-(N-ethyl-N-(2-phenoxybenzyl)amino)pyridine-5-carboxylic acid
A solution of methyl 2-(N-ethyl-N-(2-phenoxybenzyl)-amino)pyridine-5-carboxylate (0.65 g, 1.74 mmol) in THF (3 ml) and methanol (3 ml) was treated with aqueous sodium hydroxide (1N, 4 ml). The reaction mixture was heated at reflux for 3 hours cooled to ambient and allowed to stand for 60 hours, then heated at reflux for 3 hours. The organic solvent was evaporated, the residue diluted with water and acidified (pH1) with HCl (conc.). The aqueous suspension was extracted with ethyl acetate, the organic phase was dried (MgSO4) and evaporated and the solid was recrystallized from ethyl acetate/water and dried under reduced pressure to give the title product.

reactant | methyl 2-(N-ethyl-N-(2-phenoxybenzyl)-amino)pyridine-5-carboxylate | 1.74 mmol, 0.65 g | C(C)N(CC1=C(C=CC=C1)OC1=CC=CC=C1)C1=NC=C(C=C1)C(=O)OC | C22H22N2O3
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
product | 2-(N-ethyl-N-(2-phenoxybenzyl)amino)pyridine-5-carboxylic acid | C(C)N(CC1=C(C=CC=C1)OC1=CC=CC=C1)C1=NC=C(C=C1)C(=O)O | C21H20N2O3
